* C:\Users\Lukas\Documents\RP2040_AS3394\spice files\Mixer.asc
XU1 0 N001 6.5V -6.5V N002 LM324/NS
V1 6.5V 0 6.5V
V2 -6.5V 0 -6.5V
C1 N002 N001 22µ
R2 N002 N001 1.5k
R1 in N001 1k
V3 in 0 PULSE(0 3.3 0 0.0000001 0.0000001 {duty*0.000032768} 0.000032768 15000) AC 1
R3 N001 -6.5V 4.3k
R4 out N002 100
C2 out 0 .047µ
.tran .3
.param duty = 0.01
.lib ns_models.lib
.backanno
.end
